US07592358B2
10.1b. 2-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]indazol-1-yl}ethanol
The product was prepared analogously to Example 7.1e starting from 2-(5-iodoindazol-1-yl)ethanol and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 1.60 g (73% of theoretical); C22H16ClN3O (M=373.835); calc.: molpeak (M+H)+: 374/376 (Cl); found: molpeak (M+H)+: 374/376 (Cl).

reactant | 2-(5-iodoindazol-1-yl)ethanol | IC=1C=C2C=NN(C2=CC1)CCO | C9H9IN2O
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 2-{5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]indazol-1-yl}ethanol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C2C=NN(C2=CC1)CCO | C22H16ClN3O
